US09108947B2
A solution of 6-ethenylpyridine-3-carbonitrile (0.742 g, 5.70 mmol) in a 2:1 ratio of H2O:t-BuOH (30 mL) was treated with N-bromosuccinimide in portions over 5 minutes (1.07 g, 5.99 mmol) and stirred at 40° C. for 1 hour. After cooling to 5° C., the reaction was basified with drop wise addition of a solution of sodium hydroxide (0.684 g in 5 mL of H2O, 17.1 mmol) and stirred for another 1 hour. The reaction mixture was poured into H2O (10 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with saturated aqueous NaCl (1×30 mL) and dried over MgSO4. Evaporation of the solvent and purification over SiO2 (0-30% EtOAc hexanes as eluent) provided 6-(oxiran-2-yl) pyridine-3-carbonitrile.

reactant | 6-ethenylpyridine-3-carbonitrile | 5.70 mmol, 0.742 g | C(=C)C1=CC=C(C=N1)C#N | C8H6N2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydroxide | 17.1 mmol, 5 mL, 0.684 g | [OH-].[Na+]
solvent | H2O | 10 mL | O | H2O
solvent | t-BuOH | 30 mL | CC(C)(C)O | C4H10O
product | 6-(oxiran-2-yl) pyridine-3-carbonitrile | O1C(C1)C1=CC=C(C=N1)C#N | C8H6N2O
